* source AMPLIFICADOR_BC548B
Q_Q1         N14637 N14610 N14633 BC548B 
C_C1         N14604 N14610  47u  TC=0,0 
C_C2         0 N14633  100u  TC=0,0 
C_C3         N14731 N14637  10u  TC=0,0 
R_R1         N14595 N14604  50 TC=0,0 
R_R2         N14610 N14739  3.3k TC=0,0 
R_R3         0 N14610  2.2k TC=0,0 
R_R4         N14637 N14739  100 TC=0,0 
R_R5         0 N14633  100 TC=0,0 
R_R6         0 N14731  1k TC=0,0 
V_V1         N14739 0 15Vdc
V_V2         N14595 0  AC 0
+SIN 0 1mV 1K 0 0 0
